US05015779
Lithium (15 g, 2.2 mol) in small pieces is added within one hour to 900 ml of ammonia at -35° C. Acetylene is conducted through the mixture until the blue color has disappeared and a grey suspension results. Ketoisophorone (150 g, 1 mol) is then added dropwise. The ammonia is evaporated within 12 hours. An orange colored residue remains. Subsequently, 1 liter of ice/water is added, the mixture is treated while stirring with ether and then with 2N HCl and thereafter made acid with conc. HCl. The phases are separated and the aqueous phase is extracted four times with ether. The ether extracts are washed twice with water and with saturated sodium chloride solution, dried, filtered and concentrated. In this manner there are obtained 166 g of crude 3,5,5-trimethyl-4-hydroxy-4-ethynylcyclohex-2-en-1-one. This crude product is dissolved almost completely in 500 ml of ether and then cooled to -25°. In this manner there are obtained 86.2 g (48%) of crystalline 3,5,5-trimethyl-4-hydroxy-4-ethynylcyclohex-2-en-1-one. The mother liquor is dissolved in 140 ml of isopropyl ether and cooled to 0°. In this manner there are obtained a further 25 g (14%) of crystals of the desired compound.

reactant | Lithium | 2.2 mol, 15 g | [Li] | Li
reactant | ammonia | N | H3N
reactant | Acetylene | C#C | C2H2
reactant | Ketoisophorone | 1 mol, 150 g | O=C1C(=CC(=O)CC1(C)C)C | C9H12O2
product | 3,5,5-trimethyl-4-hydroxy-4-ethynylcyclohex-2-en-1-one | 166 g | CC1=CC(CC(C1(C#C)O)(C)C)=O | C11H14O2
